US09193714B2
Step 1: 5-(Benzyloxy)-2-(4-(benzyloxy)phenyl)-1-(4-iodobenzyl)-3-methyl-1H-indole
A solution of 5-(benzyloxy)-2-(4-(benzyloxy)phenyl)-3-methyl-1H-indole (4.2 g, 10 mmol; see PCT/US98/21609 for synthesis) in DMF (40 mL) was cooled to 0° C. under nitrogen atmosphere. Sodium hydride (60% dispersion in mineral oil; 420 mg, 10.5 mmol) was added in one portion. The reaction mixture was stirred at 0° C. for 5 min, and then ice bath was removed and allowed to warm to room temperature. After 1 h, the reaction was cooled back to 0° C. and 4-iodobenzyl bromide (3.7 g, 12.5 mmol) was added slowly. After 5 minutes, the ice bath was removed and the reaction mixture was stirred at room temperature for 6 h. The reaction was diluted with water (200 mL), and ethyl acetate. The precipitate was sonicated, filtered off and dried to give 1.99 g of the desired product. The filtrate was extracted with ethyl acetate (50 mL), the organic layer was washed with water, washed with brine and dried (MgSO4), filtered, concentrated and purified by silica gel chromatography (20%-70% DCM in hexanes) to afford 2.62 g. The reaction resulted in total 4.6 g of 5-(benzyloxy)-2-(4-(benzyloxy)phenyl)-1-(4-iodobenzyl)-3-methyl-1H-indole as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 7.56 (d, 2H), 7.51-7.46 (m, 4H), 7.44-7.38 (m, 4H), 7.38-7.32 (m, 2H), 7.29 (d, 2H), 7.16 (d, 1H), 7.16-7.10 (m, 3H), 6.82 (dd, 1H), 6.62 (d, 2H), 5.20 (s, 2H), 5.14 (d, 4H), 2.17 (s, 3H).

reactant | 5-(benzyloxy)-2-(4-(benzyloxy)phenyl)-3-methyl-1H-indole | 10 mmol, 4.2 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C29H25NO2
reactant | Sodium hydride | 10.5 mmol, 420 mg | [H-].[Na+]
reactant | 4-iodobenzyl bromide | 12.5 mmol, 3.7 g | IC1=CC=C(CBr)C=C1 | C7H6BrI
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 5-(Benzyloxy)-2-(4-(benzyloxy)phenyl)-1-(4-iodobenzyl)-3-methyl-1H-indole | 1.99 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)I)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C36H30INO2
